US03976681
2-Cyclopentyl-2,5-dimethyl-4-chloro-6-methoxy-indan-1,3-dione is prepared following substantially the same procedure described in Example 1, Step A using the following substances:2-Methyl-3-chloroanisole 7 g. (0.045 mole)2-Cyclopentyl-2-methylmalonyl chloride 11.2 g. (0.05 mole)Methylene chloride 400 ml.Aluminum chloride 13.5 g. (0.10 mole)

reactant | 2-Methyl-3-chloroanisole | 7 g | CC1=C(C=CC=C1Cl)OC | C8H9ClO
reactant | 2-Cyclopentyl-2-methylmalonyl chloride | 0.045 mole, 11.2 g | C1(CCCC1)C(C(=O)Cl)(C(=O)Cl)C | C9H12Cl2O2
reactant | Methylene chloride | 0.05 mole, 400 ml | C(Cl)Cl | CH2Cl2
reactant | Aluminum chloride | 13.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
product | 2-Cyclopentyl-2,5-dimethyl-4-chloro-6-methoxy-indan-1,3-dione | C1(CCCC1)C1(C(C2=CC(=C(C(=C2C1=O)Cl)C)OC)=O)C | C17H19ClO3
